US08383821B2
Methyl 5-((hydroxyimino)methyl)-2-methoxybenzoate.
Methyl 5-formyl-2-methoxybenzoate 1.0 g, 5.15 mmol), hydroxylamine hydrochloride (1.8 g, 25.75 mmol) and sodium acetate (2.1 g, 25.75 mmol) were combined in a ethanol/water mixture (1:1, 40 mL) and stirred at 50° C. for 1 h. After cooling to room temperature, the reaction mixture was poured in to ice water and extracted with methylene chloride (2×). The combined organic layers were washed with brine (2×), dried over sodium sulfate and concentrated to afford 1.04 g (97%) which was used without purification. LC/MS (HPLC method 3): tR=1.63 min, 210.06 (MH)+.

reactant | Methyl 5-formyl-2-methoxybenzoate | 5.15 mmol, 1.0 g | C(=O)C=1C=CC(=C(C(=O)OC)C1)OC | C10H10O4
reactant | hydroxylamine hydrochloride | 25.75 mmol, 1.8 g | Cl.NO
reactant | sodium acetate | 25.75 mmol, 2.1 g | C(C)(=O)[O-].[Na+]
solvent | ethanol water | 40 mL | C(C)O.O
product | Methyl 5-((hydroxyimino)methyl)-2-methoxybenzoate | ON=CC=1C=CC(=C(C(=O)OC)C1)OC | C10H11NO4
